* CIRCUIT *
.include 45nm_MGK.pm

.PARAM supply=1.1
.PARAM Lmin=45nm
.PARAM Wmin=45nm
.PARAM Wp={2*Wmin}

vvdd vdd 0 supply
.global vdd gnd

********* NAND GATE ***********
.subckt nand a b y p p1
MP1 y a vdd vdd pmos w={Wp} L={Lmin}
MP2 y b vdd vdd pmos w={Wp} L={Lmin}

MN1 y a p 0 NMOS W={Wmin} L={Lmin}
MN2 p b 0 0 NMOS W={Wmin} L={Lmin}
.ends
******************************

********* NOR GATE ***********
.subckt nor a b y p p1
MP1 y a p vdd pmos w={Wp} L={Lmin}
MP2 p b vdd vdd pmos w={Wp} L={Lmin}

MN1 y a 0 0 NMOS W={Wmin} L={Lmin}
MN2 y b 0 0 NMOS W={Wmin} L={Lmin}
.ends
******************************

********* INV GATE ***********
.subckt inv x y
MP1 y x vdd vdd pmos w={Wp} L={Lmin}
MN1 y x gnd gnd NMOS W={Wmin} L={Lmin}
.ends
******************************

******************** CIRCUIT IMPLEMENTATION ********************************

* Layer1
X1 Cn Out1 inv

*Layer2
X20 G0 P0 Out20 N20 N20_ nand
X21 Out1 G0 Out21 N21 N21_ nand
X22 G1 P1 Out22 N22 N22_ nand
X23 G0 G1 Out23 N23 N23_ nand
X24 Out1 G0 Out24 N24 N24_ nand
X25 G2 P2 Out25 N25 N25_ nand
X26 G1 G2 Out26 N26 N26_ nand
X27 G0 G1 Out27 N27 N27_ nand
X28 G2 P0 Out28 N28 N28_ nand
X29 Out1 G0 Out29 N29 N29_ nand
X210 G1 G2 Out210 N210 N210_ nand
X211 G3 P3 Out211 N211 N211_ nand
X212 G2 G3 Out212 N212 N212_ nand
X213 G1 G2 Out213 N213 N213_ nand
X214 G3 P1 Out214 N214 N214_ nand
X215 G3 G2 Out215 N215 N215_ nand
X216 G1 G0 Out216 N216 N216_ nand
X217 P3 P2 Out217 N217 N217_ nor
X218 P1 P0 Out218 N218 N218_ nor

*Layer3
X30 Out20 Out30 inv
X31 Out21 Out31 inv
X32 Out22 Out32 inv
X33 Out23 Out33 inv
X34 Out24 Out34 inv
X35 Out25 Out35 inv
X36 Out26 Out36 inv
X37 Out27 Out37 inv
X38 Out28 Out38 inv
X39 Out29 Out39 inv
X310 Out210 Out310 inv
X311 Out211 Out311 inv
X312 Out212 Out312 inv
X313 Out213 Out313 inv
X314 Out214 Out314 inv
X315 Out215 Out315 inv
X316 Out216 Out316 inv
X317 Out217 Out317 inv
X318 Out218 Out318 inv

* Layer4
X40 Out30 Out31 Cntx N40 N41_ nor
X41 Out33 P0 Out41 N41 N41_ nand
X42 Out34 G1 Out42 N42 N42_ nand
X43 Out36 P1 Out43 N43 N43_ nand
X44 Out37 Out38 Out44 N44 N44_ nand
X45 Out39 Out310 Out45 N45 N45_ nand
X46 Out312 P2 Out46 N46 N46_ nand
X47 Out313 Out314 Out47 N47 N47_ nand
X48 Out315 Out316 Out48 N48 N48_ nand
X49 Out317 Out318 Out49 N49 N49_ nor

* Layer 5
X50 Out41 Out50 inv
X51 Out42 Out51 inv
X52 Out43 Out52 inv
X53 Out44 Out53 inv
X54 Out45 Out54 inv
X55 Out46 Out55 inv
X56 Out47 Out56 inv
X57 Out48 Out57 inv
X58 Out49 P inv

* Layer 6
X60 Out50 Out51 Out60 N60 N60_ nor
X61 Out35 Out52 Out61 N61 N61_ nor
X62 Out53 Out54 Out62 N62 N62_ nor
X63 Out311 Out55 Out63 N63 N63_ nor
X64 Out56 Out57 Out64 N64 N64_ nor

* Layer 7
X70 Out60 Out70 inv
X71 Out61 Out71 inv
X72 Out62 Out72 inv
X73 Out63 Out73 inv
X74 Out64 Out74 inv

* Layer 8
X80 Out70 Out32 Cnty N80 N80_ nor
X81 Out71 Out72 Cntz N81 N81_ nor
X82 Out73 Out74 Out82 N82 N82_ nor

* Layer 9
X90 Out82 G inv

Vcn Cn 0 0
Vg0 G0 0 0
Vp0 P0 0 0
Vg1 G1 0 0
Vp1 P1 0 0
Vg2 G2 0 0
Vp2 P2 0 0
Vg3 G3 0 0
Vp3 P3 0 0


.control
run
dc TEMP 85 85 10


* print I(vvdd) I(Vcn) I(Vg0) I(Vp0) I(Vg1) I(Vp1) I(Vg2) I(Vp2) I(Vg3) I(Vp3)
* let current = I(vvdd) + I(Vcn) + I(Vg0) + I(Vp0) + I(Vg1) + I(Vp1) + I(Vg2) + I(Vp2) + I(Vg3) + I(Vp3)
* print(current)

** Input combinations
* Cn P0 P1 P2 P3 G0 G1 G2 G3
* print V(Cn) V(G0) V(P0) V(G1) V(P1) V(G2) V(P2) V(G3) V(P3)
* print V(P) V(G) V(Cntz) V(Cnty) V(Cntx)
* 
* * 1 0 0 0 1 0 0 1 0
* alter Vcn = 1.1
* alter Vg0 = 0
* alter Vg1 = 0
* alter Vg2 = 0
* alter Vg3 = 1.1
* alter Vp0 = 0
* alter Vp1 = 0
* alter Vp2 = 1.1
* alter Vp3 = 0
* dc TEMP 85 85 10
* print V(Cn) V(G0) V(P0) V(G1) V(P1) V(G2) V(P2) V(G3) V(P3)
* print V(P) V(G) V(Cntz) V(Cnty) V(Cntx) 
* 
* * 0 0 1 1 0 1 0 0 1
* alter Vcn = 0
* alter Vg0 = 0
* alter Vg1 = 1.1
* alter Vg2 = 1.1
* alter Vg3 = 0
* alter Vp0 = 1.1
* alter Vp1 = 0
* alter Vp2 = 0
* alter Vp3 = 1.1
* dc TEMP 85 85 10
* print V(Cn) V(G0) V(P0) V(G1) V(P1) V(G2) V(P2) V(G3) V(P3)
* print V(P) V(G) V(Cntz) V(Cnty) V(Cntx)
* 
* * 0 1 1 0 1 1 0 1 0
* alter Vcn = 0
* alter Vg0 = 1.1
* alter Vg1 = 1.1
* alter Vg2 = 0
* alter Vg3 = 1.1
* alter Vp0 = 1.1
* alter Vp1 = 0
* alter Vp2 = 1.1
* alter Vp3 = 0
* dc TEMP 85 85 10
* print V(Cn) V(G0) V(P0) V(G1) V(P1) V(G2) V(P2) V(G3) V(P3)
* print V(P) V(G) V(Cntz) V(Cnty) V(Cntx)

* Layer1
echo "not,  X1,  $&V(Cn),  $&V(Cn)" >> output.csv

* Layer2
echo "nand,  X20,  $&V(G0),  $&V(P0)" >> output.csv
echo "nand,  X21,  $&V(Out1),  $&V(G0)" >> output.csv
echo "nand,  X22,  $&V(G1),  $&V(P1)" >> output.csv
echo "nand,  X23,  $&V(G0),  $&V(G1)" >> output.csv
echo "nand,  X24,  $&V(Out1),  $&V(G0)" >> output.csv
echo "nand,  X25,  $&V(G2),  $&V(P2)" >> output.csv
echo "nand,  X26,  $&V(G1),  $&V(G2)" >> output.csv
echo "nand,  X27,  $&V(G0),  $&V(G1)" >> output.csv
echo "nand,  X28,  $&V(G2),  $&V(P0)" >> output.csv
echo "nand,  X29,  $&V(Out1),  $&V(G0)" >> output.csv
echo "nand,  X210,  $&V(G1),  $&V(G2)" >> output.csv
echo "nand,  X211,  $&V(G3),  $&V(P3)" >> output.csv
echo "nand,  X212,  $&V(G2),  $&V(G3)" >> output.csv
echo "nand,  X213,  $&V(G1),  $&V(G2)" >> output.csv
echo "nand,  X214,  $&V(G3),  $&V(P1)" >> output.csv
echo "nand,  X215,  $&V(G3),  $&V(G2)" >> output.csv
echo "nand,  X216,  $&V(G1),  $&V(G0)" >> output.csv
echo "nor,  X217,  $&V(P3),  $&V(P2)" >> output.csv
echo "nor,  X218,  $&V(P1),  $&V(P0)" >> output.csv

* Layer3
echo "not,  X30,  $&V(Out20), $&V(Out20)" >> output.csv
echo "not,  X31,  $&V(Out21), $&V(Out21)" >> output.csv
echo "not,  X32,  $&V(Out22), $&V(Out22)" >> output.csv
echo "not,  X33,  $&V(Out23), $&V(Out23)" >> output.csv
echo "not,  X34,  $&V(Out24), $&V(Out24)" >> output.csv
echo "not,  X35,  $&V(Out25), $&V(Out25)" >> output.csv
echo "not,  X36,  $&V(Out26), $&V(Out26)" >> output.csv
echo "not,  X37,  $&V(Out27), $&V(Out27)" >> output.csv
echo "not,  X38,  $&V(Out28), $&V(Out28)" >> output.csv
echo "not,  X39,  $&V(Out29), $&V(Out29)" >> output.csv
echo "not,  X310,  $&V(Out210),  $&V(Out210)" >> output.csv
echo "not,  X311,  $&V(Out211),  $&V(Out211)" >> output.csv
echo "not,  X312,  $&V(Out212),  $&V(Out212)" >> output.csv
echo "not,  X313,  $&V(Out213),  $&V(Out213)" >> output.csv
echo "not,  X314,  $&V(Out214),  $&V(Out214)" >> output.csv
echo "not,  X315,  $&V(Out215),  $&V(Out215)" >> output.csv
echo "not,  X316,  $&V(Out216),  $&V(Out216)" >> output.csv
echo "not,  X317,  $&V(Out217),  $&V(Out217)" >> output.csv
echo "not,  X318,  $&V(Out218),  $&V(Out218)" >> output.csv

* Layer4
echo "nor,  X40,  $&V(Out30),  $&V(Out31)" >> output.csv
echo "nand,  X41,  $&V(Out33),  $&V(P0)" >> output.csv
echo "nand,  X42,  $&V(Out34),  $&V(G1)" >> output.csv
echo "nand,  X43,  $&V(Out36),  $&V(P1)" >> output.csv
echo "nand,  X44,  $&V(Out37),  $&V(Out38)" >> output.csv
echo "nand,  X45,  $&V(Out39),  $&V(Out310)" >> output.csv
echo "nand,  X46,  $&V(Out312),  $&V(P2)" >> output.csv
echo "nand,  X47,  $&V(Out313),  $&V(Out314)" >> output.csv
echo "nand,  X48,  $&V(Out315),  $&V(Out316)" >> output.csv
echo "nor,  X49,  $&V(Out317),  $&V(Out318)" >> output.csv

* Layer5
echo "not,  X50,  $&V(Out41),  $&V(Out41)" >> output.csv
echo "not,  X51,  $&V(Out42),  $&V(Out42)" >> output.csv
echo "not,  X52,  $&V(Out43),  $&V(Out43)" >> output.csv
echo "not,  X53,  $&V(Out44),  $&V(Out44)" >> output.csv
echo "not,  X54,  $&V(Out45),  $&V(Out45)" >> output.csv
echo "not,  X55,  $&V(Out46),  $&V(Out46)" >> output.csv
echo "not,  X56,  $&V(Out47),  $&V(Out47)" >> output.csv
echo "not,  X57,  $&V(Out48),  $&V(Out48)" >> output.csv
echo "not,  X58,  $&V(Out49),  $&V(Out49)" >> output.csv

* Layer6
echo "nor,  X60,  $&V(Out50),  $&V(Out51)" >> output.csv
echo "nor,  X61,  $&V(Out35),  $&V(Out52)" >> output.csv
echo "nor,  X62,  $&V(Out53),  $&V(Out54)" >> output.csv
echo "nor,  X63,  $&V(Out311),  $&V(Out55)" >> output.csv
echo "nor,  X64,  $&V(Out56),  $&V(Out57)" >> output.csv

* Layer7
echo "not,  X70,  $&V(Out60),  $&V(Out60)" >> output.csv
echo "not,  X71,  $&V(Out61),  $&V(Out61)" >> output.csv
echo "not,  X72,  $&V(Out62),  $&V(Out62)" >> output.csv
echo "not,  X73,  $&V(Out63),  $&V(Out63)" >> output.csv
echo "not,  X74,  $&V(Out64),  $&V(Out64)" >> output.csv

* Layer8
echo "nor,  X80,  $&V(Out70),  $&V(Out32)" >> output.csv
echo "nor,  X81,  $&V(Out71),  $&V(Out72)" >> output.csv
echo "nor,  X82,  $&V(Out73),  $&V(Out74)" >> output.csv

* Layer9
echo "not,  X90,  $&V(Out82),  $&V(Out82)">> output.csv

echo "Name, Value" >> Currents.csv
echo "Vvdd, $&I(vvdd)">> Currents.csv
echo "Vcn,  $&I(Vcn)">> Currents.csv
echo "Vg0,  $&I(Vg0)">> Currents.csv
echo "Vp0,  $&I(Vp0)">> Currents.csv
echo "Vg1,  $&I(Vg1)">> Currents.csv
echo "Vp1,  $&I(Vp1)">> Currents.csv
echo "Vg2,  $&I(Vg2)">> Currents.csv
echo "Vp2,  $&I(Vp2)">> Currents.csv
echo "Vg3,  $&I(Vg3)">> Currents.csv
echo "Vp3,  $&I(Vp3)">> Currents.csv

* let current = abs(I(vvdd)) + abs(I(Vcn)) + abs(I(Vg0)) + abs(I(Vp0)) + abs(I(Vg1)) + abs(I(Vp1)) + abs(I(Vg2)) + abs(I(Vp2)) + abs(I(Vg3)) + abs(I(Vp3))
* print current

quit
.endc
.end
